US05167949
a) Methyl 2-(methoxymethoxy)acetimidate
Obtained using the procedure described in section a of Example 2, starting with 286.8 g (2.84 moles) of methoxymethoxyacetonitrile [prepared according to D. J. Loder and W. M. Bruner, U.S. Pat. No. 2,398,757; C.A. 1946, 40, 3774] and 6.5 g (0.284 gram-atom) of sodium in 1430 ml of methanol. Reaction time: 2 days. Yld: 302.6 g (80%), b.p.15 16°-65° C.

reactant | methoxymethoxyacetonitrile | 2.84 moles, 286.8 g | COCOCC#N | C4H7NO2
reactant | sodium | 6.5 g | [Na] | Na
reactant | methanol | 1430 ml | CO | CH4O
product | Methyl 2-(methoxymethoxy)acetimidate | COCOCC(OC)=N | C5H11NO3
